US07307084B2
C. N-(2-Amino-6-benzyloxy-4-bromo-phenyl)acetamide
A suspension of 23 g (56 mmol) N-acetyl-N-(2-benzyloxy4-bromo-6-nitro-phenyl)-acetamide, 5.5 g (34 mmol) iron(III) chloride and 13.8 g activated charcoal in 600 ml methanol was heated to reflux. To the reaction mixture were added 28 ml hydrazine hydrate (95%) to maintain gentie reflux. After complete reaction (2 h), the reaction mixture was cooled down and filtered through celite. The filter cake was washed thoroughly with dichloromethane/methanol and the filtrate was evaporated to dryness. The residue was partitioned between dichloromethane/methanol and water. The organic layer was washed with brine, dried over anhydrous magnesium sulphate and evaporated. The residue was recrystallized from boiling ethyl acetate/n-heptane to give 12.3 g (65%) of the title compound as a colourless solid. m.p. 185° C.

reactant | N-acetyl-N-(2-benzyloxy4-bromo-6-nitro-phenyl)-acetamide | 56 mmol, 23 g | C(C)(=O)N(C(C)=O)C1=C(C=C(C=C1[N+](=O)[O-])Br)OCC1=CC=CC=C1 | C17H15BrN2O5
reactant | charcoal | C | CH4
reactant | hydrazine hydrate | 28 ml | O.NN
solvent | methanol | 600 ml | CO | CH4O
catalyst | iron(III) chloride | 34 mmol, 5.5 g | [Fe](Cl)(Cl)Cl
product | N-(2-Amino-6-benzyloxy-4-bromo-phenyl)acetamide | 12.3 g, 65% | NC1=C(C(=CC(=C1)Br)OCC1=CC=CC=C1)NC(C)=O | C15H15BrN2O2
